US05688795
2-{3-[4-(2-Methoxyphenyl)piperazin-1-yl]propylamino}-N,N-dimethylnicotinamide (0.21 g, 0.53 mmol), prepared as in Example 21, was dissolved in methylene chloride and the solution was treated with excess hydrochloric acid in methanol and concentrated under reduced pressure. The residue was dissolved in 6 mL of DMF and N-bromosuccinimide (0.101 g, 0.57 mmol) was added. The mixture was stirred at room temperature for approximately 24 hours, diluted with water and basified with K2CO3. The basified mixture was extracted with ethyl acetate and the ethyl acetate layer was washed with brine, dried (MgSO4), filtered and concentrated. The residue was purified on silica gel by column chromatography eluting with 5% methanol/methylene chloride to give 2-{3-[4-(4-bromo-2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N-dimethylnicotinamide (0.19 g, 0.40 mmol) as an oil.

reactant | 2-{3-[4-(2-Methoxyphenyl)piperazin-1-yl]propylamino}-N,N-dimethylnicotinamide | 0.53 mmol, 0.21 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCNC1=C(C(=O)N(C)C)C=CC=N1 | C22H31N5O2
reactant | hydrochloric acid | Cl | ClH
reactant | N-bromosuccinimide | 0.57 mmol, 0.101 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | water | O | H2O
solvent | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | 2-{3-[4-(4-bromo-2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N-dimethylnicotinamide | 0.40 mmol, 0.19 g | BrC1=CC(=C(C=C1)N1CCN(CC1)CCCNC1=C(C(=O)N(C)C)C=CC=N1)OC | C22H30BrN5O2
